US04441913
33.4 g of 2-(2-fluorobenzyloxy)ethyl-2-(4-hydroxyphenoxy)propionate was dissolved in 120 ml of dimethylformamide, 15.2 g of potassium carbonate were added thereto, then the mixture was heated at 95° C. for one hour with stirring. 27.1 g of 4-trifluoromethyl chlorobenzene were added to the solution which was then heated to 95° to 100° C. for five hours. After cooling the reaction solution to room temperature, it was poured into ice-water, then extracted with toluene. The toluene layer was washed successively with 1% strength by weight sodium hydroxide solution and water, and was dried and filtered. The toluene was distilled off under reduced pressure, and further volatile by-products were removed at 100° C./0.1 mmHg. The end product of 2-(2-fluorobenzyloxy)ethyl-2-[4-(4-trifluoromethylphenoxy)phenoxy]propionate was obtained in a yield of 20.7 g. (nD20 1.5235)

reactant | 2-(2-fluorobenzyloxy)ethyl-2-(4-hydroxyphenoxy)propionate | 33.4 g | FC1=C(COCCOC(C(C)OC2=CC=C(C=C2)O)=O)C=CC=C1 | C18H19FO5
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-trifluoromethyl chlorobenzene | 27.1 g | FC(C1=CC=C(C=C1)Cl)(F)F | C7H4ClF3
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 2-(2-fluorobenzyloxy)ethyl-2-[4-(4-trifluoromethylphenoxy)phenoxy]propionate | FC1=C(COCCOC(C(C)OC2=CC=C(C=C2)OC2=CC=C(C=C2)C(F)(F)F)=O)C=CC=C1 | C25H22F4O5
